US09126998B2
tert-Butyl {3,3,3-trifluoro-2-[(2-hydroxy-1-phenylethyl)amino]-2-methylpropyl}carbamate (diastereomers)
29.1 ml (209.8 mmol) of triethylamine and 23.98 g (109.9 mmol) of di-tert-butyl dicarbonate (dissolved in 286 ml of THF) were added to 26.2 g (99.9 mmol) of 2-[(3-amino-1,1,1-trifluoro-2-methylpropan-2-yl)amino]-2-phenylethanol (diastereomers) Example 243A in THF (500 ml). The reaction mixture was stirred at RT for 16 h. The mixture was then concentrated and taken up in in each case 500 ml of saturated aqueous sodium bicarbonate solution and ethyl acetate. The phases were separated and the organic phase was dried over sodium sulphate, filtered off and concentrated. This gave 39.80 g (110% of theory) of the target compound which was used without further purification for the next step.

reactant | triethylamine | 209.8 mmol, 29.1 ml | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 109.9 mmol, 286 ml, 23.98 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 2-[(3-amino-1,1,1-trifluoro-2-methylpropan-2-yl)amino]-2-phenylethanol | 99.9 mmol, 26.2 g | NCC(C(F)(F)F)(C)NC(CO)C1=CC=CC=C1 | C12H17F3N2O
solvent | THF | 500 ml | C1CCOC1 | C4H8O
product | tert-Butyl {3,3,3-trifluoro-2-[(2-hydroxy-1-phenylethyl)amino]-2-methylpropyl}carbamate | FC(C(CNC(OC(C)(C)C)=O)(C)NC(CO)C1=CC=CC=C1)(F)F | C17H25F3N2O3
